US08471005B2
N-tert-Butyl-3-{2-[4-(4-morpholin-4-yl-cyclohexyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide
The title compound was prepared in the following manner: N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (70 mg, 0.2 mmol), N-Phenylbis(trifluoromethanesulphonimide) (82.6 mg, 0.231 mmol), N,N-Diisopropylethylamine (0.11 mL, 0.62 mmol), and N,N-Dimethylformamide (2 mL, 20 mmol) and stir at room temperature for half an hour. Added 4-(4-Morpholin-4-yl-cyclohexyl)-phenylamine (280 mg, 1.1 mmol) and stir at 80° C. overnight. The mixture was concentrated and purified using the gilson. The most pure fractions were combined basified with sat. sodium bicarbonate and extracted with DCM, dried filtered and concentrated to give a yellow solid (30 mg, 20%). MP 160-163 C. LCMS (E/I+) 589 (M+H). NMR 1H (DMSO-d6)-9.44 (s, 1H), 9.02 (s, 1H), 8.57 (s, 1H), 8.33-8.40 (m, 1H), 7.86 (d, 1H, J=8.03), 7.59-7.76 (m, 3H), 7.18-7.24 (m, 2H), 6.98 (d, 1H, J=4.8 Hz), 3.60-3.64 (m, 2H), 3.55-3.59 (m, 1H), 2.55-2.64 (m, 1H), 2.49-2.51 (m, 4H), 2.36-2.42 (m, 2H), 2.14-2.19 (m, 1H), 1.89-1.98 (m, 2H), 1.78-1.88 (m, 2H), 1.44-1.54 (m, 4H), 1.11 (s, 9H).

reactant | N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.2 mmol, 70 mg | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
reactant | N-Phenylbis(trifluoromethanesulphonimide) | 0.231 mmol, 82.6 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | N,N-Diisopropylethylamine | 0.62 mmol, 0.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-Dimethylformamide | 20 mmol, 2 mL | CN(C=O)C | C3H7NO
reactant | 4-(4-Morpholin-4-yl-cyclohexyl)-phenylamine | 1.1 mmol, 280 mg | N1(CCOCC1)C1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O
product | N-tert-Butyl-3-{2-[4-(4-morpholin-4-yl-cyclohexyl)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)C2CCC(CC2)N2CCOCC2 | C32H40N6O3S
